US04220654
D. 2-(1-Benzyl-5-methyl-4-imidazolyl)-4-oxotetrahydrothiophene oxime
2-(1-Benzyl-5-methyl-4-imidazolyl)-4-oxotetrahydrothiophene (0.14 g., 0.5 mole) is dissolved in 1 ml. of ethanol and 1 ml. of water is added. Then hydroxyamine hydrochloride (38 mg., 0.55 mole) and sodium acetate (45 mg., 0.55 mole) are added. The mixture is stirred at room temperature overnight. The reaction mixture is concentrated in vacuo. The residue is triturated with chloroform and the mixture is filtered. The chloroform extract is dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude oxime, 2-(1-benzyl-5-methyl-4-imidazolyl)-4-oxotetrahydrothiophene oxime, is a brown viscous oil (0.15 g.).

reactant | 2-(1-Benzyl-5-methyl-4-imidazolyl)-4-oxotetrahydrothiophene | 0.5 mole, 0.14 g | C(C1=CC=CC=C1)N1C=NC(=C1C)C1SCC(C1)=O | C15H16N2OS
reactant | ethanol | C(C)O | C2H6O
reactant | hydroxyamine hydrochloride | 0.55 mole, 38 mg | Cl.ON
reactant | sodium acetate | 0.55 mole, 45 mg | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-(1-Benzyl-5-methyl-4-imidazolyl)-4-oxotetrahydrothiophene oxime | C(C1=CC=CC=C1)N1C=NC(=C1C)C1SCC(C1)=NO | C15H17N3OS
